US05571818
To a solution of ethyl 3,5-dihydroxynaphthalene-2-carboxylate (4.5 g) in ethanol (40 ml) was added 3-nitrobenzylidenemalonitrile (3.9 g) and piperidine (1.95 ml). The mixture was heated under reflux for 15 minutes whereupon a yellow precipitate was observed to form. The mixture was allowed to cool to room temperature, diluted with ether (100 ml) and the solid filtered off to yield ethyl 2-amino-3-cyano-9-hydroxy-4-(3-nitrophenyl)-4H -naphtho[1,2-b]pyran-8-carboxylate as a yellow powder, m.p. 260°-261° C. (dec.)

reactant | ethyl 3,5-dihydroxynaphthalene-2-carboxylate | 4.5 g | OC=1C(=CC2=CC=CC(=C2C1)O)C(=O)OCC | C13H12O4
reactant | 3-nitrobenzylidenemalonitrile | 3.9 g | [N+](=O)([O-])C=1C=C(C=C(C(C#N)O)C#N)C=CC1 | C11H7N3O3
reactant | piperidine | 1.95 ml | N1CCCCC1 | C5H11N
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | ether | 100 ml | CCOCC | C4H10O
product | ethyl 2-amino-3-cyano-9-hydroxy-4-(3-nitrophenyl)-4H -naphtho[1,2-b]pyran-8-carboxylate | NC1=C(C(C2=C(O1)C1=CC(=C(C=C1C=C2)C(=O)OCC)O)C2=CC(=CC=C2)[N+](=O)[O-])C#N | C23H17N3O6
